US07030128B2
Sodium methoxide (3.11 g, 57.5 mmol) was added to a stirred solution of 2-aminoimidazole hemisulfate (6.61 g, 25.0 mmol) and acetic acid 4,4-diethoxy-1,1-dimethyl-2-oxobutyl ester (12.32 g, 50.0 mmol) in ethanol (50 ml). The mixture was heated under reflux for 16 h, allowed to cool to ambient temperature then pre-adsorbed directly onto silica. Purification by silica gel chromatography eluting with dichloromethane and 1% conc. ammonia on a gradient of methanol (1-3%) gave 2-(imidazo[1,2-α]pyrimidin-7-yl)propan-2-ol as an orange solid: δH (400 MHz, CDCl3) 1.60 (6H, s), 5.31 (1H, s), 7.10 (1H, d, J 7), 7.54 (1H, d, J 1), 7.72 (1H, d, J 1), 8.49 (1H, d, J 7).

reactant | Sodium methoxide | 57.5 mmol, 3.11 g | C[O-].[Na+]
reactant | 2-aminoimidazole hemisulfate | 25.0 mmol, 6.61 g | S(=O)(=O)(O)O.NC=1NC=CN1.NC=1NC=CN1
reactant | acetic acid 4,4-diethoxy-1,1-dimethyl-2-oxobutyl ester | 50.0 mmol, 12.32 g | C(C)OC(CC(C(C)(C)OC(C)=O)=O)OCC | C12H22O5
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(imidazo[1,2-α]pyrimidin-7-yl)propan-2-ol | N=1C=CN2C1N=C(C=C2)C(C)(C)O | C9H11N3O
